US04490369
(a) 8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
56.8 gm (0.3 mol) of 8-methoxy-1,3-dihydro-2H-benzazepin-2-one (melting point: 190-191° C.), dissolved in 600 ml of glacial acetic acid, were hydrogenated in the presence of 5 gm of 10% palladium-on-charcoal at a temperature of 80° C. under a hydrogen pressure of 5 bar for 12 hours. After filtering off the catalyst, the solvent was removed in vacuo. The residue was mixed with water and neutralized with potassium carbonate. The precipitate was suction-filtered off, washed with water and dried.

reactant | 8-methoxy-1,3-dihydro-2H-benzazepin-2-one | 0.3 mol, 56.8 gm | COC1=CC2=C(C=CCC(N2)=O)C=C1 | C11H11NO2
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 5 gm | [Pd] | Pd
product | 8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC=1C=CC2=C(CC(NCC2)=O)C1 | C11H13NO2
